US06713471B1
A sample of K2CO3 (52.8 mmol, 7.4 g) was added to the 4-bromo-3-chloro-phenol (24 mmol, 5 g) in anhydrous DMF (100 mL) followed by the addition of 2-iodopropane (100 mmol, 10 mL). This stirred and heated at 60° C. overnight. The reaction was cooled, extracted into EtOAc (150 mL), washed with H2) (2 L), dried over MgSO4, and concentrated in vacuo, yielding 1-bromo-2-chloro-4-isopropoxybenzene as a brown oil (4.85 g, 81%). 1H NMR (CDCl3, 300 MHz): 7.35 (1H, d, J 8.7 Hz), 6.89 (1H, d, J 2.9 Hz), 6.57 (1H, dd, J 8.8 and 2.9 Hz), 4.38 (1H, m), 1.22 (6H, d, J 6.2 Hz.)

reactant | K2CO3 | 52.8 mmol, 7.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromo-3-chloro-phenol | 24 mmol, 5 g | BrC1=C(C=C(C=C1)O)Cl | C6H4BrClO
reactant | 2-iodopropane | 100 mmol, 10 mL | IC(C)C | C3H7I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-bromo-2-chloro-4-isopropoxybenzene | 4.85 g, 81% | BrC1=C(C=C(C=C1)OC(C)C)Cl | C9H10BrClO
